US09024027B2
Step 2: Preparation of methyl 2-(5-hydroxy-1,3-dioxoisoindolin-2-yl)acetate (245)
In a MW vial 5-hydroxyisobenzofuran-1,3-dione (561 mg, 3.42 mmol) and methyl 2-aminoacetate hydrochloride (386 mg, 3.08 mmol) were suspended in toluene (15 ml). The obtained mixture was heated under microwave irradiation at 200° C. for 5 hours. A mixture of the desired compound with an undesired byproduct (about 1:2 ratio) was obtained. After filtration, the obtained beige solid was purified by silica gel flash chromatography (petroleum ether/EtOAc 1/1 to EtOAc) to give 7 methyl 2-(5-hydroxy-1,3-dioxoisoindolin-2-yl)acetate (78 mg, 0.332 mmol, 9.70% yield, MS/ESI+ 235.9 [MH]+).

reactant | 5-hydroxyisobenzofuran-1,3-dione | 3.42 mmol, 561 mg | OC=1C=C2C(OC(C2=CC1)=O)=O | C8H4O4
reactant | methyl 2-aminoacetate hydrochloride | 3.08 mmol, 386 mg | Cl.NCC(=O)OC
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 2-(5-hydroxy-1,3-dioxoisoindolin-2-yl)acetate | OC=1C=C2C(N(C(C2=CC1)=O)CC(=O)OC)=O | C11H9NO5
